US08119661B2
Step C. The preparation of ethyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate
2M Oxalyl chloride solution in dichloromethane (617 mg, 4.86 mmol) was taken into a oven dried round bottom flak and cooled to −78° C. under nitrogen atmosphere. Then dimethyl sulfoxide (767 mg, 9.72 mmol) in anhydrous dichloromethane (5 mL) was added dropwise. After 10 minutes, a solution of ethyl 3-(4-hydroxy-1-piperidyl)-3-methyl-pyrrolidine-1-carboxylate (830 mg, 3.24 mmol) in dichloromethane (10 mL) was cannulated into the flask and stirred at −78° C. for another 10 minutes. Triethylamine (1.31 g, 12.96 mmol) was then added and stirred at −78° C. for 30 minutes, allowed to warm to 0° C. over 30 minutes and was quenched with saturated solution of ammonium chloride (10 mL). The product was extracted into dichloromethane (2×50 mL) and the combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated in vacuo to afford the title compound as a yellow oil (810 mg, 90%). 1H NMR (CDCl3, 400 MHz): δ 4.18 (m, 2H), 3.88 (m, 1H), 3.62-3.35 (m, 3H), 2.92 (m, 1H), 2.85 (brs, 2H), 2.75 (brs, 1H), 2.48-2.39 (m, 4H), 2.05-1.89 (m, 1H), 1.41 (m, 1H), 1.26 (t, 3H), 1.08 (s, 3H) MS (M+1): 255.12.

reactant | Oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 9.72 mmol, 767 mg | CS(=O)C | C2H6OS
reactant | ethyl 3-(4-hydroxy-1-piperidyl)-3-methyl-pyrrolidine-1-carboxylate | 3.24 mmol, 830 mg | OC1CCN(CC1)C1(CN(CC1)C(=O)OCC)C | C13H24N2O3
reactant | Triethylamine | 12.96 mmol, 1.31 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.86 mmol, 617 mg | ClCCl | CH2Cl2
product | ethyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate | 810 mg, 90% | CC1(CN(CC1)C(=O)OCC)N1CCC(CC1)=O | C13H22N2O3
